US04161538
4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenylacetic Acid
A solution of 0.64 g of 4-(2-oxocyclohexan-1-ylmethyl)phenylacetic acid, 0.19 g of hydroxylamine hydrochloride, and 0.45 g of anhydrous sodium acetate in 10 ml of 80% ethanol was heated under reflux for 2 hours. The solvent was removed by distillation, water and ethyl acetate were added to the residue, the mixture was acidified by addition of diluted hydrochloric acid, the ethyl acetate layer separated and the water layer was then extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate, the solvent removed by distillation to give 0.7 g of the desired compound, which by recrystallization from ethyl acetate afforded colorless crystals, m.p. 180°-184° C.

reactant | 4-(2-oxocyclohexan-1-ylmethyl)phenylacetic acid | 0.64 g | O=C1C(CCCC1)CC1=CC=C(C=C1)CC(=O)O | C15H18O3
reactant | hydroxylamine hydrochloride | 0.19 g | Cl.NO
reactant | sodium acetate | 0.45 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenylacetic Acid | 0.7 g | ON=C1C(CCCC1)CC1=CC=C(C=C1)CC(=O)O | C15H19NO3
